US09125929B2
Intravenous Therapy with Adenosine/Lignocaine Resuscitation Fluid Following Hemorrhagic Shock
ALM (resuscitation solution)=10 uM Adenosine, 30 uM Lignocaine and 2.5 mM MgSO4 in 7.5% NaCl solution.

reactant | Adenosine | 10 uM | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
reactant | Lignocaine | 30 uM | CCN(CC)CC(=O)NC=1C(=CC=CC1C)C | C14H22N2O
reactant | MgSO4 | 2.5 mM | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | NaCl | [Na+].[Cl-]
product | Adenosine Lignocaine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12.CCN(CC)CC(=O)NC=1C(=CC=CC1C)C | InChI=1S/C14H22N2O.C10H13N5O4/c1-5-16(6-2)10-13(17)15-14-11(3)8-7-9-12(14)4;11-8-5-9(13-2-12-8)15(3-14-5)10-7(18)6(17)4(1-16)19-10/h7-9H,5-6,10H2,1-4H3,(H,15,17);2-4,6-7,10,16-18H,1H2,(H2,11,12,13)/t;4-,6-,7-,10-/m.1/s1
